US07576099B2
Molecular sieves 4 Å (powder, 24 g) was added to a 1 M solution of TBAF in THF (30 mL, 30 mmol), and the mixture was stirred at room-temperature overnight under an argon atmosphere. To the mixture were added a solution of tert-butyl 2-fluoro-4-formylbenzoate (750 mg, 0.0033 mol) and 2,2,2-trifluoroethyldiphenylphosphine oxide (1.9 g, 0.0067 mol) in THF (30 mL). After the mixture was stirred for 2 h it was filtered. The filtrate was concentrated under vacuum and water (120 mL) was added. The mixture was extracted with AcOEt and the organic extract was washed with brine, dried (Na2SO4), and concentrated under vacuum. The residue was purified by column chromatography on silica gel using AcOEt-hexane (0-15%) as eluent to give (E)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate as a colorless oil (620 mg, 64%), followed by (Z)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate as a colorless oil (80 mg, 8%).

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | tert-butyl 2-fluoro-4-formylbenzoate | 0.0033 mol, 750 mg | FC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C=O | C12H13FO3
reactant | 2,2,2-trifluoroethyldiphenylphosphine oxide | 0.0067 mol, 1.9 g | FC(CP(C1=CC=CC=C1)(C1=CC=CC=C1)=O)(F)F | C14H12F3OP
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mmol, 30 mL | C1CCOC1 | C4H8O
product | (E)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate | 620 mg, 64% | FC1=C(C(=O)OC(C)(C)C)C=CC(=C1)\C=C\C(F)(F)F | C14H14F4O2
